US06072057
1-[2-(trimethylsilyl)ethoxy]methyl]-2-thiophenyl-imidazole (1.06 g, 3.46 mM) was dissolved in 40 ml of dry THF and the solution cooled to -78° C. under N2. Lithium diisopropylamide (3.46 ml, 5.19 mM, 1.5M solution in cyclohexane from Aldrich) was added via syringe, and the reaction solution stirred for 1 hour at -78° C. N-iodosuccinimide (0.85 g, 3.77 mM) in 10 ml of dry THF was added via syringe, and the reaction stirred for 30 minutes. The reaction mixture was added to 200 ml of saturated ammonium chloride, and extracted with 200 ml of ethyl acetate. The ethyl acetate layer was washed with saturated sodium bisulfite solution (150 ml), separated, dried over Na2SO4, filtered, and evaporated in vacuo to give a crude red brown oil. Purification by silica gel column chromatography using ethyl acetate/hexanes 1:9 gave 1.089 grams of 1-[2-(trimethylsilyl)ethoxy]methyl]-2-thiophenyl-5-iodo-imidazole (orange viscous oil).

reactant | 2-thiophenyl-imidazole | 3.46 mM, 1.06 g | S1C(=CC=C1)C=1NC=CN1 | C7H6N2S
reactant | Lithium diisopropylamide | 5.19 mM, 3.46 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-iodosuccinimide | 3.77 mM, 0.85 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-thiophenyl-5-iodo-imidazole | S1C(=CC=C1)C=1NC(=CN1)I | C7H5IN2S
